US08304446B2
N-{[3-({4-(Methyloxy)-3-[(2-thienylsulfonyl)amino]-1H-indazol-1-yl}methyl)phenyl]methyl}acetamide
To a cooled (ice/water bath) solution of N-[(3-{[3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide (for a preparation see Example 1) (30 mg, 0.06 mmol) in THF (1 mL) was added dropwise 2M lithium aluminium hydride in THF (0.074 mL, 0.149 mmol), and the suspension was stirred 10 min at 0° C. and then at room temperature for one hour. Reaction was quenched with 4 drops of water and then with aqueous solution of sodium hydroxide (2M, 0.5 mL). After stirring for 30 min, solid was removed and washed with THF (10 mL). The filtrate was concentrated under reduced pressure and the residue was dissolved in 1:1 MeOH-DMSO (1 mL) and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a TFA modifier (Method B). The solvent from appropriate fractions was evaporated under a stream of nitrogen in a Radleys blowdown apparatus to give the title compound (18 mg, 64%). LCMS (System A) RT=0.89 min, ES+ve m/z 471 (M+H)+.

reactant | N-[(3-{[3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C=CC1)CNC(C)=O | C22H21ClN4O4S2
reactant | lithium aluminium hydride | 2M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.149 mmol, 0.074 mL | C1CCOC1 | C4H8O
product | N-{[3-({4-(Methyloxy)-3-[(2-thienylsulfonyl)amino]-1H-indazol-1-yl}methyl)phenyl]methyl}acetamide | 18 mg, 64% | COC1=C2C(=NN(C2=CC=C1)CC=1C=C(C=CC1)CNC(C)=O)NS(=O)(=O)C=1SC=CC1 | C22H22N4O4S2
